US06515179B2
A 28% sodium methoxide/methanol solution (0.34 ml; 1.51 molar equivalents) was added to a solution of N-(2-nitrobenzenesulfonyl)benzhydrylamine (402.1 mg) in dry acetonitrile (3 ml) at room temperature in a nitrogen atmosphere, followed by stirring for 27 hours at room temperature. On the way, a 28% sodium methoxide/methanol solution (0.34 ml; 1.51 molar equivalents) was further added after 10 hours. The reaction mixture was cooled with ice, 1 N hydrochloric acid (5 ml) was added, and the reaction solvents were removed by evaporation under reduced pressure. Water (5 ml), 1 N hydrochloric acid (5 ml) and ether (30 ml) were added to the resulting concentrate, followed by extraction and solution separation, and the organic layer was extracted again with water (5 ml). Sodium hydroxide (0.62 g) was added to the resulting aqueous layer, and extraction was conducted three times with ether (20 ml), followed by drying over sodium sulfate, filtration, concentration and drying under vacuum to obtain benzhydrylamine (155.9 mg; yield: 77.9%).

reactant | sodium methoxide methanol | 1.51 molar, 0.34 ml | C[O-].[Na+].CO
reactant | N-(2-nitrobenzenesulfonyl)benzhydrylamine | 402.1 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16N2O4S
reactant | sodium methoxide methanol | 1.51 molar, 0.34 ml | C[O-].[Na+].CO
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | benzhydrylamine | 155.9 mg, yield: 77.9% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
